US05519160
Preparation of methyl 1-isopropyl-2-oxocylopentanecarboxylate
7.7 g of sodium hydride (free of oil) was added to 80 ml of dimethylformamide. 25 g of 2-methoxycarbonylcylopentanone was slowly added dropwise while cooling with ice. The reaction mixture was allowed to come to room temperature, whereupon 45 g of isopropyl iodide was added, followed by stirring for a further 3.5 hours at 70°-80° C. The reaction mixture thus obtained was poured into 400 ml of 10% hydrochloric acid solution and extracted with 100 ml of ethyl acetate. The organic layer was washed with water, dried, and concentrated to obtain 25.5 g (yield, 78.7%) of the title compound.

reactant | sodium hydride | 7.7 g | [H-].[Na+]
reactant | 2-methoxycarbonylcylopentanone | 25 g | COC(=O)C1C(CCC1)=O | C7H10O3
reactant | isopropyl iodide | 45 g | C(C)(C)I | C3H7I
reactant | hydrochloric acid | 400 ml | Cl | ClH
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | methyl 1-isopropyl-2-oxocylopentanecarboxylate | C(C)(C)C1(C(CCC1)=O)C(=O)OC | C10H16O3
